### PR TITLE
Expose `CPolynomial.div`  equivalence to Mathlib's

### PR DESCRIPTION
**Pull request by JuanCoRo**
This PR generalizes the theorem `raw_modByMonic_toPoly_eq_modByMonic` in `DivisionCorrectness.lean` to provide full equivalence of `divModByMonicAux` to Mathlib's. Then, this theorem is used to expose the correspondent equivalences of `CPolynomial.div` and `CPolynomial.mod`.

The proof of `raw_modByMonic_toPoly_eq_modByMonic` already contained the core logic for the exposing the full equivalence. Some proof optimizations are also included.

It also adds a proof of equivalence between CompPoly's `div` and `mod` through `toPoly`.

### Stylistic changes introduced in this PR
The following are style changes w.r.t. the existing work in `DivisionCorrectness.lean`:
- The the use of `p.monic` instead of `(p.leadingCoeff == 1) = true`
- Change `(p.val : Raw R)` to `p.val`

### Possible additional work for this PR:
My take is that the above stylistic changes are more idiomatic and changing them throughout `DivisionCorrectness.lean` doesn't pose much overhead. I'd be happy to make these changes so let me know if I should go ahead with this.

### Authorship questions
I do not know what does suffice to include authorship on these files. Please advise on if these contributions are enough and/or if there are any specific guidelines.

### CODE REVIEW

**Comment by dhsorens** [comment]
@JuanCoRo just checking - is this PR still under construction or is it ready for review?

**Comment by JuanCoRo** [comment]
@dhsorens Yes, sorry! It's still under construction. Will be pushing the latest additions shortly! :pray:

**Comment by dhsorens** [comment]
no worries! just making sure you weren't waiting on me for something :)

**Comment by JuanCoRo** [comment]
@dhsorens everything should be good to do! Thank you for your patience and sorry for the delay!
I added some theorems where it seemed to make sense. Feel free to point me in other directions if I messed anything up! :pray:

File: CompPoly/Univariate/Basic.lean [hunk 1]
```diff
@@ -817,10 +817,26 @@ theorem modByMonicRemainderOnly_eq_modByMonic [Field R] [BEq R] [LawfulBEq R]
 def div [Field R] [BEq R] [LawfulBEq R] (p q : CPolynomial R) : CPolynomial R :=
   ⟨Raw.div p.val q.val, Trim.isCanonical_of_trim_eq (Raw.div_canonical p.val q.val)⟩
 
+/-- Any `CPolynomial` divided by the zero polynomial gives the zero
+polynomial. -/
+@[simp]
+theorem div_zero [Field R] [BEq R] [LawfulBEq R] (p : CPolynomial R) : p.div 0 = 0 := by
+  apply Subtype.ext; show Raw.div p.val 0 = 0; unfold Raw.div
+  rw [Raw.mul_zero, Raw.leadingCoeff_zero, inv_zero]
+  rw [smul_eq_mul, Raw.C_mul_eq_smul_trim, Raw.smul_zero_trim]; rfl
```
Comment (dhsorens) [inline CompPoly/Univariate/Basic.lean:826]: just noting this here, I guess this is expected behavior from the pov of having a total division function, but good to keep in mind as an edge case

**Review by dhsorens — APPROVED** [review]
this looks good to me @JuanCoRo , happy with the authorship in the files. lemmas all look good, just made the note below but otherwise things look good. merging.

reviewed for: correctness, idiomatic style, quality and necessity of lemmas added
